2118-10-20 06:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2118-10-19**] 03:11 PM
 NASAL SWAB - At [**2118-10-19**] 03:41 PM
   - EGD done by GI:
   Impression: Black esophageal mucosa with sloughing in the
   gastroesophageal junction and lower third of the esophagus from 30 to
   38 cm compatible with ischemic injury to the esophagus.
   Blood in the fundus. Otherwise normal EGD to second part of the
   duodenum. likely bleeding from ischemic injury to the esophagus.
   - RIJ was placed
   - GI Recs: carafate one gram slurries four times daily. protonix 40 mg
   [**Hospital1 **]. clear liquid diet in AM do not advance pasted soft solids for two
   weeks.
   - received 4u pRBC
   - per GI, goal hct 30, HOB elevated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-10-20**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.2
C (97.2
   HR: 70 (70 - 100) bpm
   BP: 121/62(76) {78/33(47) - 140/77(94)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (5 - 12)mmHg
   Total In:
                                                                  2,594 mL
                                                                    466 mL
   PO:
   TF:
   IVF:
                                                                  1,647 mL
                                                                     72 mL
   Blood products:
                                                                    946 mL
                                                                    394 mL
   Total out:
                                                                  2,320 mL
                                                                  1,040 mL
   Urine:
                                                                  2,320 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    274 mL
                                                                   -574 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.29/51/24/22/-3
   PaO2 / FiO2: 24
   Physical Examination
   General: alert and oriented, no acute distress
   HEENT: Sclera anicteric, oropharynx clear with dry mucous membranes
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Slightly cool, well perfused, 2+ pulses, no clubbing, cyanosis or
   edema
   Neuro: Awake, alert, speaking full sentences when spoken to
   Labs / Radiology
   88 K/uL
   10.5 g/dL
   100 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.0 mEq/L
   44 mg/dL
   109 mEq/L
   140 mEq/L
   29.2 %
   7.6 K/uL
        [image002.jpg]
                             [**2118-10-19**]  04:34 PM
                             [**2118-10-19**]  05:20 PM
                             [**2118-10-19**]  09:09 PM
                             [**2118-10-20**]  02:59 AM
   WBC
   7.6
   Hct
   25.7
   29
   25.3
   29.2
   Plt
   88
   Cr
   0.7
   TCO2
   26
   Glucose
   117
   100
   Other labs:
   PT / PTT / INR:12.9/29.0/1.1,
   ALT / AST:13/25, Alk Phos / T Bili:37/1.3, Lactic Acid:2.3 mmol/L,
   Albumin:3.4 g/dL, LDH:211 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Rib, knee, hip, shoulder x-rays: no fracture
   CXR: 1. New right IJ line with tip at cavoatrial junction; no evidence
   of pneumothorax. 2. Small left pleural effusion.
   Assessment and Plan
   Mrs. [**Known lastname 8907**] is an 89 year old female with remote history of upper
   GI bleed, GERD, and anemia who is transfered to the [**Hospital Unit Name 4**] with
   hematemesis.
   .
   #) Hematemesis: s/p EGD which showed evidence of ischemic esophagitis,
   most likely secondary to brief hypotension. Other differential that
   were considered includes peptic ulcer disease (especially given she is
   listed as possibily taking Advil at night and received some in the ED),
   gastritis, ischemic esophagitis, aortic-enterofistula, AVM, malignancy
   (given family history, though family history is of colonic). No history
   of epistaxis or pulmonary source. Received 4u pRBC since transfer.
   - s/p RIJ for access
   - per GI, goal hct 30, maintain active T&S
   - continue carafate one gram slurries four times daily. protonix 40 mg
   [**Hospital1 **].
   - HOB elevated
   - check PM hct, transfusion if hct ,30
   - f/u GI recs
   - IVF PRN hypotension/low urine output, etc, goal MAP>65, goal
   UOP>30cc/hr
   - Hold ASA, heparin SQ, NSAIDs, especially given pt is thrombocytopenic
   from dilutional effect
   - NPO for now, GI will provide recs on when to start PO
   .
   #) Hypotension: Patient had initial marked hypotension in ED, which
   resolved and per report was not symptomatic, but it could have lead to
   ischemic esophagitis. Given her presentation of  fall, unclear if the
   fall was seconary to hypotension. Patient had a reason for hypotension
   post-hematemesis, but in terms of the etiologies of hypotension prior
   to hematemesis, patient has no history of Parkinson's Disease or DM to
   support diagnosis of autononmic dysfunction/dysregulation. No steroid
   use to support adrenal insufficiency. Could be secondary to anemia,
   slow bleed, and volume depletion, medication effect.
   - IVF PRN hypotension/low urine output, etc, goal MAP>65, goal
   UOP>30cc/hr
   - monitor CVP for goal >[**11-14**]
   .
   #) Thrombocytopenia: Plt dropped from 160 to 88 during the past 2 days.
   Pt received heparin when she was on the floor 2 days ago. Also got lots
   of fluids that could dilute plt, but the degree of drop cannot be
   solely accounted for by dilution. Pt is on terbinafene which can cause
   pancytopenia
   - f/u PF4 antibody
   - contineu to trend
   - avoid heparin for now
   .
   #) Fall: X-rays negative for any fractures. Continue pain control with
   tylenol PRN, calcium-vitamin D, PT consult once more stable.
   .
   #) Peripheral vascular disease: hold ASA for now
   .
   #) Hypothyroidism: Not currently on replacement therapy. Follow up
   ordered TSH by hospitalist team
   .
   #) Leg pain: Continue amytripyline
   .
   #) Onychomycosis: Continue terbenafine
   ICU Care
   Nutrition: NPO for now , f/u GI recs regarding when to start PO
   Glycemic Control: Insulin if needed
   Lines:
   20 Gauge - [**2118-10-19**] 01:28 PM
   22 Gauge - [**2118-10-19**] 01:28 PM
   Multi Lumen - [**2118-10-19**] 03:11 PM
   Prophylaxis:
   DVT: Pneumoboots (no heparin given bleeding)
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments: : Son [**Name (NI) 362**] at ([**Telephone/Fax (1) 8909**], Cell: ([**Telephone/Fax (1) 8910**]. Son was called and updated re: transfer to [**Hospital Unit Name 4**] and plan for
   EGD.
   Code status: Full, as discussed with patient and son
   Disposition: Pending clinical improvement, stable HCT and BP, then
   transfer to floor

2118-10-20 10:18:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2118-10-19**] 03:11 PM
 NASAL SWAB - At [**2118-10-19**] 03:41 PM
   -EGD completed--perhaps NSAID triggered as well as vomiting/[**Doctor First Name **]
   [**Doctor Last Name **] tear as well as black esophagus with ulcers and areas of bleeding
   noted in the setting of NSAIDS.
   -Further brisk bleeding not seen and in fact patient has had negative
   fluid balance overnight.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-10-20**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2118-10-20**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.5
   HR: 75 (70 - 100) bpm
   BP: 110/46(63) {78/33(47) - 140/77(94)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 6 (5 - 12)mmHg
   Total In:
                                                                  2,594 mL
                                                                    514 mL
   PO:
   TF:
   IVF:
                                                                  1,647 mL
                                                                    120 mL
   Blood products:
                                                                    946 mL
                                                                    394 mL
   Total out:
                                                                  2,320 mL
                                                                  1,320 mL
   Urine:
                                                                  2,320 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    274 mL
                                                                   -806 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.29/51/24/22/-3
   PaO2 / FiO2: 24
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   88 K/uL
   100 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.0 mEq/L
   44 mg/dL
   109 mEq/L
   140 mEq/L
   29.2 %
   7.6 K/uL
        [image002.jpg]
                             [**2118-10-19**]  04:34 PM
                             [**2118-10-19**]  05:20 PM
                             [**2118-10-19**]  09:09 PM
                             [**2118-10-20**]  02:59 AM
   WBC
   7.6
   Hct
   25.7
   29
   25.3
   29.2
   Plt
   88
   Cr
   0.7
   TCO2
   26
   Glucose
   117
   100
   Other labs: PT / PTT / INR:12.9/29.0/1.1, ALT / AST:13/25, Alk Phos / T
   Bili:37/1.3, Lactic Acid:2.3 mmol/L, Albumin:3.4 g/dL, LDH:211 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: None new
CVL in good position on post procedure film
   Assessment and Plan
   89 yo female with admission with remote history of GI bleed but had
   refused evalution in the past.  She came in to the hosptial with fall
   without LOC but then evolved GI bleed presenting as brisk hematemesis
   and to ICU for further care where patient had "black esophagus" with
   ulceration and sloughing and [**Doctor First Name **] [**Doctor Last Name **] tear suggested as
   explanations on EGD done.  Of note patient had substantial improvement
   in mental status following procedure and with recovery from sedating
   agents
   1) GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)-
   -EGD completed
   -Continue on PPI
   -Advance diet per GI recs
   -Do have CVL in place
   2)Altered Mental Status-
   -Improved through tonight into today with some mild residual somnolence
   and decreased motivation this morning but quite clear and oriented.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-10-19**] 01:28 PM
   22 Gauge - [**2118-10-19**] 01:28 PM
   Multi Lumen - [**2118-10-19**] 03:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2118-10-21 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - PM Hct: stable 29.2 yesterday, this morning SBP in the 80s, Hct 27.3,
   so given 1u pRBC and 500cc NS bolus
   - TSH was 11 (not sure why it was ordered)
   - GI recs: transfuse to Hct of 30, NPO, HOB elevation, continue PPI [**Hospital1 **]
   and Sucralfate
   - PT worked with pt, was OOB, encourage OOB daily, needs PT 3-5x/week
   for 1 week
   - ordered HIT Ab- pending
   - there was an order for no PO meds, so pt was not getting Sucralfate
   all day (only getting IV PPI [**Hospital1 **]) so order was revised so pt started
   getting the sucralfate
   - son showed a CT from [**2115**] that noted an asceding aortic aneurysm 6cm
   -> can consider CT or US on the floor
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-10-20**] 08:32 PM
   Lorazepam (Ativan) - [**2118-10-21**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-10-21**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 60 (59 - 76) bpm
   BP: 72/35(45) {72/35(45) - 126/85(89)} mmHg
   RR: 18 (7 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 70 kg
    CVP: 5 (5 - 13)mmHg
   Total In:
                                                                  1,175 mL
                                                                  1,367 mL
   PO:
   TF:
   IVF:
                                                                    722 mL
                                                                  1,307 mL
   Blood products:
                                                                    394 mL
   Total out:
                                                                  2,870 mL
                                                                    640 mL
   Urine:
                                                                  2,870 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,695 mL
                                                                    727 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General: alert and oriented, no acute distress
   HEENT: Sclera anicteric, oropharynx clear with dry mucous membranes
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Slightly cool, well perfused, 2+ pulses, no clubbing, cyanosis or
   edema
   Neuro: Awake, alert, speaking full sentences when spoken to
   Labs / Radiology
   88 K/uL
   9.6 g/dL
   114 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.4 mEq/L
   19 mg/dL
   107 mEq/L
   136 mEq/L
   27.3 %
   5.9 K/uL
        [image002.jpg]
                             [**2118-10-19**]  04:34 PM
                             [**2118-10-19**]  05:20 PM
                             [**2118-10-19**]  09:09 PM
                             [**2118-10-20**]  02:59 AM
                             [**2118-10-20**]  05:00 PM
                             [**2118-10-21**]  03:57 AM
   WBC
   7.6
   5.8
   5.9
   Hct
   25.7
   29
   25.3
   29.2
   29.2
   27.3
   Plt
   88
   92
   88
   Cr
   0.7
   0.6
   TCO2
   26
   Glucose
   117
   100
   114
   Other labs:
   PT / PTT / INR:12.8/29.0/1.1,
    Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Micro: MRSA screen: pending
   Images: no CXR
   Assessment and Plan
   Mrs. [**Known lastname 8907**] is an 89 year old female with remote history of upper
   GI bleed, GERD, and anemia who is transfered to the [**Hospital Unit Name 4**] with
   hematemesis.
   .
   #) Hematemesis: s/p EGD which showed evidence of ischemic esophagitis,
   most likely secondary to brief hypotension. Other differential that
   were considered includes peptic ulcer disease (especially given she is
   listed as possibily taking Advil at night and received some in the ED),
   gastritis, ischemic esophagitis, aortic-enterofistula, AVM, malignancy
   (given family history, though family history is of colonic). No history
   of epistaxis or pulmonary source. Received 4u pRBC since transfer.
   - s/p RIJ for access
   - per GI, goal hct 30, maintain active T&S
   - continue carafate one gram slurries four times daily. protonix 40 mg
   [**Hospital1 **].
   - HOB elevated
   - check PM hct, transfusion if hct <30
   - f/u GI recs
   - IVF PRN hypotension/low urine output, etc, goal MAP>65, goal
   UOP>30cc/hr
   - Hold ASA, heparin SQ, NSAIDs, especially given pt is thrombocytopenic
   from dilutional effect
   - start clear liquids today, do not advance diet beyond full liquids
   for 2 weeks
   .
   #) Hypotension: Patient had initial marked hypotension in ED, which
   resolved and per report was not symptomatic, but it could have lead to
   ischemic esophagitis. Given her presentation of  fall, unclear if the
   fall was seconary to hypotension. Patient had a reason for hypotension
   post-hematemesis, but in terms of the etiologies of hypotension prior
   to hematemesis, patient has no history of Parkinson's Disease or DM to
   support diagnosis of autononmic dysfunction/dysregulation. No steroid
   use to support adrenal insufficiency. Could be secondary to anemia,
   slow bleed, and volume depletion, medication effect.
   - IVF PRN hypotension/low urine output, etc, goal MAP>65, goal
   UOP>30cc/hr
   - monitor CVP for goal >[**11-14**]
   .
   #) Thrombocytopenia: Plt dropped from 160 to 88 during the past 2 days.
   Pt received heparin when she was on the floor 2 days ago. Also got lots
   of fluids that could dilute plt, but the degree of drop cannot be
   solely accounted for by dilution. Pt is on terbinafene which can cause
   pancytopenia
   - f/u PF4 antibody
   - contineu to trend
   - avoid heparin for now
   .
   #) Asceding aortic aneurysm: OSH records showed 6cm ascending aortic
   aneurysm. Per report, patient didn
t want anything done about it.
   - clarify with patient regarding whether she wants anything done about
   the aneurysm
   - CTA on the floor if pt would like further workup and intervention
   .
   #) Fall: X-rays negative for any fractures. Continue pain control with
   tylenol PRN, calcium-vitamin D. Patient was seen by PT on [**10-20**].
   - fall precautions
   .
   #) Peripheral vascular disease: hold ASA for now given ischemic
   esophagitis
   .
   #) Hypothyroidism: Not currently on replacement therapy. TSH 11, most
   likely sick euthyroid syndrome
   - check T4
   .
   #) Leg pain: Continue amytripyline
   .
   #) Onychomycosis: Continue terbenafine
   ICU Care
   Nutrition: clear liquids today
   Glycemic Control:  ISS if needed
   Lines:
   Multi Lumen - [**2118-10-19**] 03:11 PM
   Prophylaxis:
   DVT: Pneumoboots (no heparin given bleeding)
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments: : Son [**Name (NI) 362**] at ([**Telephone/Fax (1) 8909**], Cell: ([**Telephone/Fax (1) 8910**].
   Code status: Full, as discussed with patient and son
   Disposition: Pending clinical improvement, stable HCT and BP, then
   transfer to floor

2118-10-21 12:18:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   1 unit in past 24 hours of PRBC
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-10-20**] 08:32 PM
   Lorazepam (Ativan) - [**2118-10-21**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Cough, No(t) Dyspnea
   Flowsheet Data as of  [**2118-10-21**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 63 (58 - 73) bpm
   BP: 105/53(66) {72/35(45) - 123/85(89)} mmHg
   RR: 14 (7 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 70 kg
   Height: 64 Inch
   CVP: 9 (5 - 13)mmHg
   Total In:
                                                                  1,175 mL
                                                                  1,856 mL
   PO:
   TF:
   IVF:
                                                                    722 mL
                                                                  1,421 mL
   Blood products:
                                                                    394 mL
                                                                    375 mL
   Total out:
                                                                  2,870 mL
                                                                  1,175 mL
   Urine:
                                                                  2,870 mL
                                                                  1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,695 mL
                                                                    681 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   88 K/uL
   114 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.4 mEq/L
   19 mg/dL
   107 mEq/L
   136 mEq/L
   27.3 %
   5.9 K/uL
        [image002.jpg]
                             [**2118-10-19**]  04:34 PM
                             [**2118-10-19**]  05:20 PM
                             [**2118-10-19**]  09:09 PM
                             [**2118-10-20**]  02:59 AM
                             [**2118-10-20**]  05:00 PM
                             [**2118-10-21**]  03:57 AM
   WBC
   7.6
   5.8
   5.9
   Hct
   25.7
   29
   25.3
   29.2
   29.2
   27.3
   Plt
   88
   92
   88
   Cr
   0.7
   0.6
   TCO2
   26
   Glucose
   117
   100
   114
   Other labs: PT / PTT / INR:12.8/29.0/1.1, ALT / AST:13/25, Alk Phos / T
   Bili:37/1.3, Lactic Acid:2.3 mmol/L, Albumin:3.4 g/dL, LDH:211 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   89 yo female with hematemesis and black esophagus seen on EGD.  She has
   been able to tolerate negative fluid balance and has even had quite
   signficant improvement in breathing in the setting of diuresis.
   1)GI BLeed/ GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI
   BLEED, GIB)-
   -Carafate and PPI
   -Will resume po intake as sooon as GI is in agreement
   -Will need EGD in follow up to confirm resolution
   -No NSAIDS
   2)Thrombocytopenia-
   No heparin products or flushes
   Will need to follow up on AB testing
   3)Congestive Heart Failiure-
   Negative fluild balance desired
   4)Altered Mental Status-
   -Pt altert and interactive this morning and appropriate
   ICU Care
   Nutrition: Will need to confirm when npo status resolved
   Glycemic Control:
   Lines:
   Multi Lumen - [**2118-10-19**] 03:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2118-10-22 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-10-22**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 68 (60 - 79) bpm
   BP: 98/51(64) {93/42(56) - 139/62(80)} mmHg
   RR: 19 (11 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 70 kg
   Height: 64 Inch
   CVP: 1 (-26 - 13)mmHg
   Total In:
                                                                  1,945 mL
   PO:
   TF:
   IVF:
                                                                  1,510 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,035 mL
                                                                    400 mL
   Urine:
                                                                  2,035 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                   -400 mL
   Respiratory support
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   101 K/uL
   109 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   14 mg/dL
   106 mEq/L
   137 mEq/L
   28.2 %
   5.2 K/uL
        [image002.jpg]
                             [**2118-10-19**]  04:34 PM
                             [**2118-10-19**]  05:20 PM
                             [**2118-10-19**]  09:09 PM
                             [**2118-10-20**]  02:59 AM
                             [**2118-10-20**]  05:00 PM
                             [**2118-10-21**]  03:57 AM
                             [**2118-10-21**]  12:37 PM
                             [**2118-10-21**]  06:21 PM
                             [**2118-10-22**]  07:08 AM
   WBC
   7.6
   5.8
   5.9
   5.2
   Hct
   25.7
   29
   25.3
   29.2
   29.2
   27.3
   29.6
   29.4
   28.2
   Plt
   88
   92
   88
   101
   Cr
   0.7
   0.6
   0.6
   TCO2
   26
   Glucose
   117
   100
   114
   109
   Other labs: PT / PTT / INR:12.8/29.0/1.1, ALT / AST:13/25, Alk Phos / T
   Bili:37/1.3, Lactic Acid:2.3 mmol/L, Albumin:3.4 g/dL, LDH:211 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2118-10-19**] 03:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2118-10-22 08:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - called out
   - 12 pm hct: 29.6.  4PM hct: 29.4.
   - f/u HITT ab: pending
   - active T and S reordered
   - GI recs: changed diet to clear liquids, do not advanced past full
   liquids for two weeks
   - NL boluses to maintain urine out >30cc/h
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-10-22**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 68 (60 - 79) bpm
   BP: 98/51(64) {93/42(56) - 139/62(80)} mmHg
   RR: 19 (11 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 70 kg
   Height: 64 Inch
    CVP: 1 (-26 - 13)mmHg
   Total In:
                                                                  1,945 mL
   PO:
   TF:
   IVF:
                                                                  1,510 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,035 mL
                                                                    400 mL
   Urine:
                                                                  2,035 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                   -400 mL
   Respiratory support
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General: alert and oriented, no acute distress
   HEENT: Sclera anicteric, oropharynx clear with dry mucous membranes
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Slightly cool, well perfused, 2+ pulses, no clubbing, cyanosis or
   edema
   Neuro: Awake, alert, speaking full sentences when spoken to
   Labs / Radiology
   101 K/uL
   9.9 g/dL
   109 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   14 mg/dL
   106 mEq/L
   137 mEq/L
   28.2 %
   5.2 K/uL
        [image002.jpg]
   91
                                                                       5.2
                                                            [image004.gif]
                                     9.9
   [image006.gif]
   101
                 [image008.gif]
   [image006.gif]
                                    28.2
   [image004.gif]
   Chemistry still pending from this morning
                             [**2118-10-19**]  04:34 PM
                             [**2118-10-19**]  05:20 PM
                             [**2118-10-19**]  09:09 PM
                             [**2118-10-20**]  02:59 AM
                             [**2118-10-20**]  05:00 PM
                             [**2118-10-21**]  03:57 AM
                             [**2118-10-21**]  12:37 PM
                             [**2118-10-21**]  06:21 PM
                             [**2118-10-22**]  07:08 AM
   WBC
   7.6
   5.8
   5.9
   5.2
   Hct
   25.7
   29
   25.3
   29.2
   29.2
   27.3
   29.6
   29.4
   28.2
   Plt
   88
   92
   88
   101
   Cr
   0.7
   0.6
   0.6
   TCO2
   26
   Glucose
   117
   100
   114
   109
   Other labs:
   Chemistry still pending
   Micro: none
   Imaging: none
   Assessment and Plan
   Mrs. [**Known lastname 8907**] is an 89 year old female with remote history of upper
   GI bleed, GERD, and anemia who is transfered to the [**Hospital Unit Name 4**] with
   hematemesis.
   .
   #) Hematemesis: s/p EGD which showed evidence of ischemic esophagitis,
   most likely secondary to brief hypotension. Other differential that
   were considered includes peptic ulcer disease (especially given she is
   listed as possibily taking Advil at night and received some in the ED),
   gastritis, ischemic esophagitis, aortic-enterofistula, AVM, malignancy
   (given family history, though family history is of colonic). No history
   of epistaxis or pulmonary source. Received 4u pRBC since transfer.
   - s/p RIJ for access
   - per GI, goal hct 30, maintain active T&S
   - continue carafate one gram slurries four times daily. protonix 40 mg
   [**Hospital1 **].
   - HOB elevated
   - check PM hct, transfusion if hct <30
   - f/u GI recs
   - IVF PRN hypotension/low urine output, etc, goal MAP>65, goal
   UOP>30cc/hr
   - Hold ASA, heparin SQ, NSAIDs, especially given pt is thrombocytopenic
   from dilutional effect
   - start clear liquids today, do not advance diet beyond full liquids
   for 2 weeks
   .
   #) Hypotension: Patient had initial marked hypotension in ED, which
   resolved and per report was not symptomatic, but it could have lead to
   ischemic esophagitis. Given her presentation of  fall, unclear if the
   fall was seconary to hypotension. Patient had a reason for hypotension
   post-hematemesis, but in terms of the etiologies of hypotension prior
   to hematemesis, patient has no history of Parkinson's Disease or DM to
   support diagnosis of autononmic dysfunction/dysregulation. No steroid
   use to support adrenal insufficiency. Could be secondary to anemia,
   slow bleed, and volume depletion, medication effect.
   - IVF PRN hypotension/low urine output, etc, goal MAP>65, goal
   UOP>30cc/hr
   - monitor CVP for goal >[**11-14**]
   .
   #) Thrombocytopenia: Plt dropped from 160 to 88 during the past 2 days.
   Pt received heparin when she was on the floor 2 days ago. Also got lots
   of fluids that could dilute plt, but the degree of drop cannot be
   solely accounted for by dilution. Pt is on terbinafene which can cause
   pancytopenia. PFT4 antibody neg.
   - contineu to trend
   .
   #) Asceding aortic aneurysm: OSH records showed 6cm ascending aortic
   aneurysm. Per report, patient didn
t want anything done about it.
   - clarify with patient regarding whether she wants anything done about
   the aneurysm
   - CTA on the floor if pt would like further workup and intervention
   .
   #) Fall: X-rays negative for any fractures. Continue pain control with
   tylenol PRN, calcium-vitamin D. Patient was seen by PT on [**10-20**].
   - fall precautions
   .
   #) Peripheral vascular disease: hold ASA for now given ischemic
   esophagitis
   .
   #) Hypothyroidism: Not currently on replacement therapy. TSH 11, T4:
   6.6.  most likely sick euthyroid syndrome
   - check T4
   .
   #) Leg pain: Continue amytripyline
   .
   #) Onychomycosis: Continue terbenafine
   ICU Care
   Nutrition: clear liquids today
   Glycemic Control:  ISS if needed
   Lines:
   Multi Lumen - [**2118-10-19**] 03:11 PM
   Prophylaxis:
   DVT: Pneumoboots (no heparin given bleeding)
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments: : Son [**Name (NI) 362**] at ([**Telephone/Fax (1) 8909**], Cell: ([**Telephone/Fax (1) 8910**].
   Code status: Full, as discussed with patient and son
   Disposition: Pending clinical improvement, stable HCT and BP, then
   transfer to floor